US07632857B2
4-Bromo-2-fluorobenzoic acid chloride
Procedure CC: To a stirring solution of 4-bromo-2-fluorobenzoic acid (11.0 mmol) and oxalyl chloride (2.0 mmol) in dichloromethane (0.10M), add 2 drops of dimethylformamide as a catalyst. Stir at room temperature for 3 hours. After this time, concentrate the reaction in vacuo. Assume total conversion to the acid chloride.

reactant | 4-bromo-2-fluorobenzoic acid | 11.0 mmol | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | oxalyl chloride | 2.0 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 0.10M | ClCCl | CH2Cl2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 4-Bromo-2-fluorobenzoic acid chloride | BrC1=CC(=C(C(=O)Cl)C=C1)F | C7H3BrClFO
